US09145415B2
To a solution of 4-(benzyloxy)-2-(methylthio)pyrimidine-5-carbaldehyde (S20, 223 mg) in pyridine (4.0 mL), hydroxylamine hydrochloride (95.8 mg) was added at room temperature, and the mixture was stirred at room temperature for 2 hours. To the reaction mixture, ethyl acetate and water were added. The organic layer was separated, washed successively with water and saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to obtain 4-(benzyloxy)-2-(methylthio)pyrimidine-5-carbaldehyde oxime (S21, 233 mg).

reactant | 4-(benzyloxy)-2-(methylthio)pyrimidine-5-carbaldehyde | 223 mg | C(C1=CC=CC=C1)OC1=NC(=NC=C1C=O)SC | C13H12N2O2S
reactant | hydroxylamine hydrochloride | 95.8 mg | Cl.NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | pyridine | 4.0 mL | N1=CC=CC=C1 | C5H5N
product | 4-(benzyloxy)-2-(methylthio)pyrimidine-5-carbaldehyde oxime | 233 mg | C(C1=CC=CC=C1)OC1=NC(=NC=C1C=NO)SC | C13H13N3O2S
